US03966783
a. 6-Oxo-6-phenylhexanoyl chloride
6-Oxo-6-phenyl hexanoic acid (10.3g; 50 mmole), thionyl chloride (25 ml) and dry benzene (150 ml) were heated under reflux for 3 hours. The reagent and solvent were removed on the rotary evaporator. A further 100 ml of benzene was added and the solution again evaporated under reduced pressure (to remove last traces of thionyl chloride). The quantitatively formed, analytically pure brown solid (mp 53°-6°) was used directly in the Friedel-Crafts acylation of step (b).

reactant | 6-Oxo-6-phenyl hexanoic acid | 50 mmole, 10.3g | O=C(CCCCC(=O)O)C1=CC=CC=C1 | C12H14O3
reactant | thionyl chloride | 25 ml | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
product | 6-Oxo-6-phenylhexanoyl chloride | O=C(CCCCC(=O)Cl)C1=CC=CC=C1 | C12H13ClO2
